US08119661B2
prop-2-ynyl 4-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzimidazol-1-yl]-1-piperidyl]-4-methyl-piperidine-1-carboxylate
Following the procedure used in example 16 and starting from (3aS,7aS)-3-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one (HCl salt, 181 mg, 0.51 mmol) and prop-2-ynyl chloroformate (0.050 mL, 0.51 mmol), the title compound (19.40 mg, 9.50%) was obtained after purification by preparative LC/MS (high pH). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.29-1.47 (m, 5H), 1.49 (s, 3H), 1.76-2.01 (m, 8H), 2.29-2.44 (m, 2H), 2.82 (t, J=9.96 Hz, 5H), 2.90 (d, J=10.55 Hz, 2H), 3.03 (d, J=6.64 Hz, 1H), 3.68 (t, J=9.57 Hz, 2H), 4.06-4.17 (m, 1H), 4.27 (d, J=19.53 Hz, 2H), 4.52 (s, 1H), 4.69 (s, 1H), 4.76 (s, 1H). MS (M+1): 403.3.

reactant | (3aS,7aS)-3-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-1H-benzimidazol-2-one | 0.51 mmol, 181 mg | CC1(CCNCC1)N1CCC(CC1)N1C(N[C@@H]2[C@@H]1CCCC2)=O | C18H32N4O
reactant | prop-2-ynyl chloroformate | 0.51 mmol, 0.050 mL | ClC(=O)OCC#C | C4H3ClO2
product | prop-2-ynyl 4-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzimidazol-1-yl]-1-piperidyl]-4-methyl-piperidine-1-carboxylate | 19.40 mg, 9.50% | O=C1N[C@@H]2[C@@H](N1C1CCN(CC1)C1(CCN(CC1)C(=O)OCC#C)C)CCCC2 | C22H34N4O3
